US07495103B2
4-Hydroxy-2-methylsulfanyl-quinoline-3-carboxylic acid ethyl ester (8 g, 30 mmol) was heated under reflux in NaOH solution (10%, 100 mL) for 1.5 h. After cooling, the mixture was acidified with concentrated HCl to pH 4. The resulting solid was collected via filtration, washed with water (100 mL) and MeOH (100 mL) to give 2-methylsulfanyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (A-16) as a white solid (6 g, 85%). 1H NMR (CDCl3) δ 16.4 (br s, 3H), 11.1 (br s, 1H), 8.19 (d, J=8 Hz, 1H), 8.05 (d, J=8 Hz, 1H), 7.84 (t, J=8, 8 Hz, 1H), 7.52 (t, J=8 Hz, 1H), 2.74 (s, 3H); ESI-MS 235.9 m/z (MH+).

reactant | 4-Hydroxy-2-methylsulfanyl-quinoline-3-carboxylic acid ethyl ester | 30 mmol, 8 g | C(C)OC(=O)C=1C(=NC2=CC=CC=C2C1O)SC | C13H13NO3S
reactant | HCl | Cl | ClH
solvent | NaOH | 100 mL | [OH-].[Na+]
product | 2-methylsulfanyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 6 g, 85% | CSC=1NC2=CC=CC=C2C(C1C(=O)O)=O | C11H9NO3S
